US06514968B1
Preparation 10 9-Benzyl-8-methyl-1,2,3,9-tetrahydro-4H-carbazol-4-one
8-Methyl-1,2,3,9-tetrahydro-4H-carbazol-4-one (0.1967 g, 0.99 mmol) is added to a slurry of pentane-washed NaH (0.0485 g, 0.0012 mol) in DMF (2 mL) and after stirring for 30 min, benzyl bromide (0.14 mL, 0.0012 mol) is added. After 3 h starting material still remained, so additional benzyl bromide (0.015 mL, 0.013 mmol) is added and the mixture is stirred overnight at room temperature. The mixture is then partitioned between aq. sodium bicarbonate and ethyl acetate and the organic layer is dried over sodium sulfate and concentrated to dryness. The resulting solids are recrystallized from ethyl acetate/hexane/dichloromethane to give 0.2076 g (73%) of the title compound; mp 165-166° C.; MS (ESI+) for C20H19NO m/z 290.2 (M+H)+; IR (drift) 2940, 1637, 1599, 1538, 1494, 1462, 1447, 1416, 1357, 1322, 1121, 787, 752, 727, 697 cm−1; 1H NMR (CDCl3) δ2.21, 2.51, 2.59, 2.82, 5.58, 6.89, 6.95, 7.16, 7.29, 8.23. Anal. Calcd for C20H19NO: C, 83.01; H, 6.62; N, 4.84. Found: C, 82.53; H, 6.62; N, 4.86.

reactant | 8-Methyl-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.99 mmol, 0.1967 g | CC=1C=CC=C2C=3C(CCCC3NC12)=O | C13H13NO
reactant | pentane | CCCCC | C5H12
reactant | NaH | 0.0012 mol, 0.0485 g | [H-].[Na+]
reactant | benzyl bromide | 0.0012 mol, 0.14 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | benzyl bromide | 0.013 mmol, 0.015 mL | C(C1=CC=CC=C1)Br | C7H7Br
product | 9-Benzyl-8-methyl-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.2076 g, 73% | C(C1=CC=CC=C1)N1C2=C(C=CC=C2C=2C(CCCC12)=O)C | C20H19NO
